US08865713B2
Step H: 1-(6-chloro-5-m-tolylsulfanyl-1H-benzoimidazol-2-yl)-1H-pyrazole-4-carboxylic acid.
To a mixture of 1-(6-chloro-5-m-tolylsulfanyl-1H-benzoimidazol-2-yl)-1H-pyrazole-4-carboxylic acid ethyl ester (0.100 g, 0.242 mmol), THF (1 mL), and water (0.3 mL) was added LiOH.H2O (40.7 mg, 0.969 mmol). The mixture was stirred for 18 h at 23° C. The solvent was evaporated, water (3 mL) was added and the mixture acidified with 1M HCl. The resulting white precipitate was filtered and dried to yield the titled compound (85.0 mg, 89%). MS (ESI/CI): mass calcd. for C18H13ClN4O2S, 384.0; m/z found, 385.0 [M+H]+. 1H NMR (500 MHz, DMSO-d6): 8.82 (s, 1H), 8.22 (s, 1H), 7.73 (s, 1H), 7.43 (s, 1H), 7.27 (t, J=7.9 Hz, 1H), 7.15-7.10 (m, 2H), 7.04 (d, J=7.9 Hz, 1H), 2.27 (s, 3H).

reactant | 1-(6-chloro-5-m-tolylsulfanyl-1H-benzoimidazol-2-yl)-1H-pyrazole-4-carboxylic acid ethyl ester | 0.242 mmol, 0.100 g | C(C)OC(=O)C=1C=NN(C1)C1=NC2=C(N1)C=C(C(=C2)SC=2C=C(C=CC2)C)Cl | C20H17ClN4O2S
reactant | THF | 1 mL | C1CCOC1 | C4H8O
reactant | LiOH.H2O | 0.969 mmol, 40.7 mg | O[Li].O
solvent | water | 0.3 mL | O | H2O
product | 1-(6-chloro-5-m-tolylsulfanyl-1H-benzoimidazol-2-yl)-1H-pyrazole-4-carboxylic acid | 85.0 mg, 89% | ClC=1C(=CC2=C(NC(=N2)N2N=CC(=C2)C(=O)O)C1)SC=1C=C(C=CC1)C | C18H13ClN4O2S
